US05095038
Sodium borohydride (0.24 g), was added to a 0° C. mixture of methyl 3-methoxy-4-[6-(trifluoroacetamido)-1H-inden-1-ylmethyl]benzoate (1.25 g), tetrahydrofuran (14 ml) and methanol (2 ml). After 15 min, the reaction was stirred at room temperature for 2 h and cooled to 0° C. 1N Hydrochloric acid was added and the mixture was extracted with ethyl acetate. The organic layer was washed (sodium bicarbonate, water, brine) and dried (MgSO4). Evaporation, dissolution in ether (50 ml) and addition of ethereal hydrogen chloride (5 ml) afforded methyl 4-(6-amino-3H-inden-1-ylmethyl)-3-methyoxybenzoate hydrochloride (0.85 g, 79%) as a colorless solid; mp 213.0°-215.0° C.; MS(CI), m/e=310 (M+H).

reactant | Sodium borohydride | 0.24 g | [BH4-].[Na+]
reactant | methyl 3-methoxy-4-[6-(trifluoroacetamido)-1H-inden-1-ylmethyl]benzoate | 1.25 g | COC=1C=C(C(=O)OC)C=CC1CC1C=CC2=CC=C(C=C12)NC(C(F)(F)F)=O | C21H18F3NO4
reactant | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | methyl 4-(6-amino-3H-inden-1-ylmethyl)-3-methyoxybenzoate hydrochloride | 0.85 g, 79% | Cl.NC1=CC=C2CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | InChI=1S/C19H19NO3.ClH/c1-22-18-10-15(19(21)23-2)6-5-14(18)9-13-4-3-12-7-8-16(20)11-17(12)13;/h4-8,10-11H,3,9,20H2,1-2H3;1H
